US07420055B2
4-Mercaptopyridine (1.1 1 g, 10 mmol) and K2CO3 (1.38 g, 10 mmol) were suspended in DMF (10 mL) and stirred at room temperature for 15 min. The mixture was treated with 4-chloro-2-fluoro-1-nitro-benzene (1.75 g, 10 mmol) and heated at 50° C. for 16 h. After cooling to room temperature, water (50 mL) was added and the mixture extracted 3 times with ethyl acetate. The organic layer was combined the ethyl acetate and then reduced in vacuo. The residue was dissolved in DMF (30 mL) and treated with SnCl2.2H2O. The mixture was heated at 50° C. for 16 hr. The DMF was distilled off under vacuum and the reduction product was purified by flash chromatography on silica gel column (50-100% EtOAc/hexane) to afford 4-chloro-2-(pyridin-4-ylsulfanyl)-phenylamine as light yellow solid. The title sulfonamide compound was prepared according to the general procedure using 118 mg of 4-chloro-2-(pyridin-4-ylsulfanyl)-phenylamine prepared above and 116 mg of 4-tert-Butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.33 (s, 9H), 7.06 (d, 2H, J=6.8 Hz), 7.45 (d, 2H, J=8.4 Hz), 7.51 (m, 2H), 7.66 (d, 2H, 8.4 Hz), 7.71 (d, 1H, J=9.2 Hz), 8.43 (d, 2H, J=6.4 Hz). MS: m/z 433.9 (M++1).

reactant | 4-Mercaptopyridine | 10 mmol, 1 g | SC1=CC=NC=C1 | C5H5NS
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-2-fluoro-1-nitro-benzene | 10 mmol, 1.75 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-(pyridin-4-ylsulfanyl)-phenylamine | ClC1=CC(=C(C=C1)N)SC1=CC=NC=C1 | C11H9ClN2S
